* C:\Users\torsten\Documents\Seafile\Arbeit_Lehre\_2021SS\prog1\repos\prog1_ws2020_private\Uebungen\061_Datenreihe\daten\ltspice\schaltung.asc
Q1 out in 0 0 MYTRANS
R1 N001 out 500
Voffset N002 0 730m
Ve in N002 SINE(0 1m 1k)
VB N001 0 10
.model NPN NPN
.model PNP PNP
.lib C:\Users\torsten\Documents\LTspiceXVII\lib\cmp\standard.bjt
.MODEL MYTRANS NPN IS=7f VAF=80 BF=300
.tran 0 10m 0 1u
* Eingangsspannung
* Ausgangsspannung
.backanno
.end
